US05847114
Preparation of 1,2-dicyano-3,4,5,6-tetra(2-naphthoxy)benzene 1,2-Dicyano-3,4,5,6-tetrachlorobenzene (30.5 parts), potassium carbonate (62.8 parts) and 2-naphthol (98.1 parts) were stirred in dimethylformamide (140 parts) at 70° C. for 3 hours. The mixture was poured into water (300 parts) and extracted with chloroform (3×300 parts). The combined chloroform extracts were washed with dilute aqueous sodium hydroxide solution (500 parts) and then with water (500 parts). The chloroform was dried over anhydrous magnesium sulphate before evaporating under reduced pressure to leave a brown liquid which crystallised on adding butan-1-ol, cooling and standing for 2 hours. The crystallised solid was filtered, washed with butan-1-ol until the filtrates were colourless. The solid was dried to give 1,2-dicyano-3,4,5,6-tetra(2-naphthoxy)benzene (40.6 parts), m.p. 188°-190° C.

reactant | 1,2-dicyano-3,4,5,6-tetra(2-naphthoxy)benzene 1,2-Dicyano-3,4,5,6-tetrachlorobenzene | C(#N)C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)C#N.C(#N)C1=C(C(=C(C(=C1OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)C#N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2-naphthol | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | water | O | H2O
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,2-dicyano-3,4,5,6-tetra(2-naphthoxy)benzene | C(#N)C1=C(C(=C(C(=C1OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)OC1=CC2=CC=CC=C2C=C1)C#N | C48H28N2O4
